US07825119B2
Stage a)—Synthesis of tert-butyl 2-(2-ethyl-butylamino)-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino}-propionate.
75 mg (0.35 mmoles) of sodium triacetoxyborohydride in 6 ml of tetrahydrofuran is left under stirring for 10 minutes at TA. Then a mixture of 100 mg (0.208 mmoles) of tert-butyl 2-amino-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]pyrimidin-4-ylamino}-propionate and 0.228 mmoles of 2-ethyl-butylaldehyde in solution in 3 ml of tetrahydrofuran is added. The reaction mixture is stirred at ambient temperature for 4 hours 30 minutes. Then it is extracted with ethyl acetate after washing with a saturated solution of sodium bicarbonate. The organic phase obtained is dried over magnesium sulphate before being concentrated to dryness under reduced pressure (2 kPa). The residue is then chromatographed on silica gel with the following eluent: ethyl acetate-dichloromethane/methanol (80/20) 50-50. A mass my of expected product is obtained.

reactant | sodium triacetoxyborohydride | 0.35 mmoles, 75 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | tert-butyl 2-amino-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]pyrimidin-4-ylamino}-propionate | 0.208 mmoles, 100 mg | NC(C(=O)OC(C)(C)C)CNC1=NC=NC(=C1CC)N1CCC(CC1)C1=NC=2NCCCC2C=C1 | C26H39N7O2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | tert-butyl 2-(2-ethyl-butylamino)-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino}-propionate | C(C)C(CNC(C(=O)OC(C)(C)C)CNC1=NC=NC(=C1CC)N1CCC(CC1)C1=NC=2NCCCC2C=C1)CC | C32H51N7O2
